US08133886B2
6-(6-Acetylamino-pyrimidin-4-yloxy)-isoquinoline-1-carboxylic acid [5-tert-butyl-2-(4-methoxy-phenyl)-2H-pyrazol-3-yl]-amide
150.0 mg (0.28 mMol) 6-(6-Chloro-pyrimidin-4-yloxy)-isoquinoline-1-carboxylic acid [5-tert-butyl-2-(4-methoxy-phenyl)-2H-pyrazol-3-yl]-amide is dissolved in 5 ml dioxane. After addition of 131 mg Cs2CO3 (>99%, Fluka 20959; 0.40 mMol), 25 mg (0.43 mMol) acetamide, 20 mg Xantphos (Aldrich 52, 646-0; 0.034 mMol) and 10.5 mg Pd2(dba)3 (Aldrich 32, 877-4; 0.011 mMol) the reaction mixture is heated to 70° C. for 20 h. It is cooled to rt again and worked up by addition of H2O and EtOAc. The phases are separated and the aq. layer is repeatedly extracted with EtOAc. Combined organic extracts are washed with brine, dried and concentrated. The residual crude product is purified by flash chromatography (combi-flash: 40 g column, hexanes/EtOAc; gradient 0-50% EtOAc) to give the title compound as a yellow solid: MS: [M+1]+=553; 1H MNR (CDCl3): δ ppm 10.70 (s, 1H), 9.43 (d, 1H), 8.44 (s, 1H), 8.38 (d, 1H), 8.15 (bs, HN), 7.84 (s, 1H), 7.74 (d, 1H), 7.63 (s, 1H), 7.52-7.48 (m, 3H), 7.05 (d, 2H), 6.87 (s, 1H), 5.29 (s, 1H), 3.88 (s, 3H), 2.25 (s, 3H), 1.41 (s, 9H).

reactant | 6-(6-Chloro-pyrimidin-4-yloxy)-isoquinoline-1-carboxylic acid [5-tert-butyl-2-(4-methoxy-phenyl)-2H-pyrazol-3-yl]-amide | 0.28 mMol, 150.0 mg | C(C)(C)(C)C=1C=C(N(N1)C1=CC=C(C=C1)OC)NC(=O)C1=NC=CC2=CC(=CC=C12)OC1=NC=NC(=C1)Cl | C28H25ClN6O3
reactant | Cs2CO3 | 0.40 mMol, 131 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | acetamide | 0.43 mMol, 25 mg | C(C)(=O)N | C2H5NO
reactant | Xantphos | 0.034 mMol, 20 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.011 mMol, 10.5 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | O | H2O
product | 6-(6-Acetylamino-pyrimidin-4-yloxy)-isoquinoline-1-carboxylic acid [5-tert-butyl-2-(4-methoxy-phenyl)-2H-pyrazol-3-yl]-amide | C(C)(C)(C)C=1C=C(N(N1)C1=CC=C(C=C1)OC)NC(=O)C1=NC=CC2=CC(=CC=C12)OC1=NC=NC(=C1)NC(C)=O | C30H29N7O4
